US08012976B2
Ethyl 3-(4,5-dimethyl-4H-1,2,4-triazol-3-yl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one (510 mg, 2 mmol) and 4,5-dimethyl-4H-1,2,4-triazole-3-carbaldehyde (275 mg, 2.2 mmol) in ethyl propionate (20 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (184 mg, 8 mmol) in ethanol (10 mL)) was added dropwise. After the addition, the mixture was stirred at 10° C. for 2 hr, then 30° C. for 4 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (30 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give a crude product. The crude product was purified by chromatography (silica gel, petroleum ether/ethyl acetate=3:1 then ethyl acetate/methanol=30:1) to afford the title compound (170 mg, yield: 21%). LC-MS (ESI) m/z: 409 (M+1)+.

reactant | (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one | 2 mmol, 510 mg | FC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C15H10FNO2
reactant | 4,5-dimethyl-4H-1,2,4-triazole-3-carbaldehyde | 2.2 mmol, 275 mg | CN1C(=NN=C1C)C=O | C5H7N3O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 8 mmol, 10 mL, 184 mg | C(C)O | C2H6O
solvent | ethyl propionate | 20 mL | C(CC)(=O)OCC | C5H10O2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | Ethyl 3-(4,5-dimethyl-4H-1,2,4-triazol-3-yl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 170 mg, yield: 21% | CN1C(=NN=C1C)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=C(C=C1)F | C22H21FN4O3
